US08217031B2
N-(Trifluoromethanesulfonyl)furfurylamine
Furfurylamine (5.0 g) and 5.73 g of triethylamine were dissolved in 50 mL of methylene chloride and then 16.0 g of trifluoromethanesulfonic acid anhydride was slowly dropped thereinto with stirring and cooling with ice. The reaction solution was stirred at room temperature for 10 minutes and poured over 50 mL of water and the mixture was subjected to extraction with methylene chloride. The organic layer was washed with water and a saturated solution of sodium chloride successively and dried over anhydrous magnesium sulfate and the solvent was evaporated therefrom in vacuo to give 11.8 g of the objective compound as light yellow liquid.

reactant | Furfurylamine | 5.0 g | C(C1=CC=CO1)N | C5H7NO
reactant | triethylamine | 5.73 g | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic acid anhydride | 16.0 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | 50 mL | O | H2O
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | N-(Trifluoromethanesulfonyl)furfurylamine | 11.8 g | FC(S(=O)(=O)NCC1=CC=CO1)(F)F | C6H6F3NO3S
